US08809352B2
A suspension of 2-bromo-5,5-dimethylcyclohex-1-enecarbaldehyde (250 mg, 1.15 mmol), 4-chlorophenyl boronic acid (270 mg, 1.727 mmol) and Pd(Ph3P)4 (66.5 mg, 0.058 mmol) in dioxane (2.5 mL) was stirred at room temperature in a 5 mL microwave vial under an atmosphere of nitrogen. A solution of potassium carbonate (318 mg, 2.3 mmol) in water (0.3 mL) was added and the solution became clear. The vial was capped and heated to 100° C. for 12 minutes in a microwave. The reaction was cooled to room temperature, diluted with CH2Cl2, filtered through a plug of Celite, and concentrated. The crude residue was purified by flash chromatography on silica gel (0-25% EtOAc/heptanes) to afford 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-enecarbaldehyde as a clear colorless oil (220 mg, 77% yield).

reactant | 2-bromo-5,5-dimethylcyclohex-1-enecarbaldehyde | 1.15 mmol, 250 mg | BrC1=C(CC(CC1)(C)C)C=O | C9H13BrO
reactant | 4-chlorophenyl boronic acid | 1.727 mmol, 270 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 2.3 mmol, 318 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.3 mL | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(Ph3P)4 | 0.058 mmol, 66.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-enecarbaldehyde | 220 mg, 77% yield | ClC1=CC=C(C=C1)C1=C(CC(CC1)(C)C)C=O | C15H17ClO
